US05972888
Synthesis of 2-(4-methoxyphenyl)-3-[4-[2-(diethylamino)ethoxy]benzoyl]-6-methoxybenzofuran
The title compound was prepared by reacting the compound of Preparation 4a supra, 2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)-6-methoxybenzofuran (10 g, 26.7 mmol) which is dissolved in 200 ml of N,N-dimethylformamide with an equimolar amount of 2-(N,N-diethylamino)ethyl chloride (6.4 g, 32 mmol) and potassium carbonate (11.06 g, 80.2 mmol). The mixture was heated to 100° C. and was maintained at that temperature for about two hours. The reaction mixture was then cooled to room temperature and maintained at this temperature overnight while stirring.

reactant | 2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)-6-methoxybenzofuran | 26.7 mmol, 10 g | COC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC(=C2)OC | C23H18O5
reactant | 2-(N,N-diethylamino)ethyl chloride | 32 mmol, 6.4 g | C(C)N(CC)CCCl | C6H14ClN
reactant | potassium carbonate | 80.2 mmol, 11.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-methoxyphenyl)-3-[4-[2-(diethylamino)ethoxy]benzoyl]-6-methoxybenzofuran | COC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCN(CC)CC)=O)C=CC(=C2)OC | C29H31NO5
